US04910201
Synthesis of 2-(5-chloropyridine-2-yl)-4-chloro-5-(4-chlorobenzyloxy)-3(2H)-pyridazinone (Compound No. 235)
In 30 ml of N,N-dimethylformamide were dissolved 1.5 g (5.1 m mol) of 2-(5-chloropyridine-2-yl)-4,5-dichloropyridazinone and 0.73 g (5.1 m mol) of p-chlorobenzyl alcohol, and thereto was added 0.34 g of powdery potassium hydroxide. Then, the procedures in Synthesis Example 2 were repeated to give 500 mg of the intended compound.

reactant | 2-(5-chloropyridine-2-yl)-4,5-dichloropyridazinone | 1.5 g | ClC=1C=CC(=NC1)N1N=CC(=C(C1=O)Cl)Cl | C9H4Cl3N3O
reactant | p-chlorobenzyl alcohol | 0.73 g | ClC1=CC=C(CO)C=C1 | C7H7ClO
reactant | potassium hydroxide | 0.34 g | [OH-].[K+]
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2-(5-chloropyridine-2-yl)-4-chloro-5-(4-chlorobenzyloxy)-3(2H)-pyridazinone | 500 mg | ClC=1C=CC(=NC1)N1N=CC(=C(C1=O)Cl)OCC1=CC=C(C=C1)Cl | C16H10Cl3N3O2
